US06022894
EXAMPLE 78: Preparation of N-[2-hydroxy-3-(4-phenylbutanoxy)propyl]-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine.
Using the method of Example 9, supra, 4-phenylbutyl glycidyl ether (348 mg, 1.5 mmol) and 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine (268 mg, 1.5 mmol) were used to prepare the title compound. Preparative TLC (20 cm×20 cm×2 mm silica, eluted with 5% MeOH/CHCl3) was used to purify the material and yielded 275 mg of free base: GC/EI-MS, m/z (rel. int.) 370 (M+ -15,0.1), 265 (19), 264 (100), 163 (11), 121 (19), 114 (9), 90 (43), 71 (10), 70 (12), 58 (7).

reactant | 4-phenylbutyl glycidyl ether | 1.5 mmol, 348 mg | C(C1CO1)OCCCCC1=CC=CC=C1 | C13H18O2
reactant | 1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | 1.5 mmol, 268 mg | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
product | N-[2-hydroxy-3-(4-phenylbutanoxy)propyl]-1,1-dimethyl-2-(4-methoxyphenyl)ethylamine | OC(CNC(CC1=CC=C(C=C1)OC)(C)C)COCCCCC1=CC=CC=C1 | C24H35NO3
